US05486512
II. 3-Chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-thione
10 g of 3-chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one was treated with 15 g of Lawesson's reagent in toluene at reflux under nitrogen, until the starting material was consumed, as checked by TLC, using chloroform as eluent (24 hours). The mixture was concentrated in vacuo and chromatographed on silica gel, using chloroform as eluent. The bright yellow material was recrystallized from hexane-ethyl acetate, giving lemon-yellow needles, m.p. 99° C.-101° C.

reactant | 3-chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one | 10 g | ClC1=CC=C2C(N3C(=NC2=C1)CCCCC3)=O | C13H13ClN2O
reactant | Lawesson's reagent | 15 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-thione | ClC1=CC=C2C(N3C(=NC2=C1)CCCCC3)=S | C13H13ClN2S
